US04418068
6-hydroxy-2-(4-hydroxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene
A 1.5 g. portion of 6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)-3-(4-bromoethoxybenzoyl)-benzo[b]thiophene, hydrochloride, was combined with 25 ml. of dimethylformamide, 5 ml. of piperidine and 150 mg. of potassium iodide, and was stirred for two hours at ambient temperature. The reaction was then heated to 110° C. in an oil bath, under a nitrogen atmosphere, and stirred for 5 days. The course of the reaction was followed by thin layer chromatography on silica gel plates, using a 9/1 mixture of chloroform/methanol as the eluting solvent. As the reaction went on, the spot indicating the protected comopund gradually disappeared, and was replaced, first by spots indicating the two possible mono-protected compounds, and then by a spot indicative of the desired product.

reactant | 6-methanesulfonyloxy-2-(4-methanesulfonyloxyphenyl)-3-(4-bromoethoxybenzoyl)-benzo[b]thiophene, hydrochloride | Cl.CS(=O)(=O)OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCBr)=O)C2=CC=C(C=C2)OS(=O)(=O)C)C1
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | potassium iodide | [I-].[K+]
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 6-hydroxy-2-(4-hydroxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene | OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=CC=C(C=C2)O)C1 | C28H27NO4S
